US09102614B2
Preparation of 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbutyl)-3-methylnaphthalen-2-yl)acetic acid (89):
To a solution of 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid (8 mg, 0.017 mmol) in EtOH (1 mL) was added rhodium on alumina (2 mg). The reaction was flushed with hydrogen gas and then stirred under and hydrogen atmosphere for 1 h. The reaction was filtered and concentrated in vacuo to give 7 mg of the titled compound. 1H-NMR: 400 MHz, (CD3OD) δ: 7.68 (d, J=8 Hz, 1H), 7.63 (m, 1H), 7.61 (s, 1H), 7.53 (m, 2H), 7.30 (m, 2H), 7.05 (s, 1H), 5.12 (s, 1H), 2.65 (m, 2H), 2.59 (s, 3H), 1.66 (m, 2H), 1.19 (s, 6H), 0.96 (s, 9H). HPLC (Kinetex 2.6u, 50×4.6 mm, 2-100% MeCN/H2O+0.05% HOAc, 4.0 min run): tR (min)=3.52.

reactant | 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | 0.017 mmol, 8 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(C)O)C1=CC=C(C=C1)Cl | C28H29ClO4
solvent | EtOH | 1 mL | CCO | C2H6O
catalyst | rhodium on alumina | 2 mg | [Rh] | Rh
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbutyl)-3-methylnaphthalen-2-yl)acetic acid | 7 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)CCC(C)(C)O)C1=CC=C(C=C1)Cl | C28H33ClO4
